US07498440B2
Preparation of 4-(hydroxy{bis[3-(methyloxy)phenyl]}methyl)-1-{2-[(phenylmethyl)oxy]ethyl}-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl {bis[3-(methyloxy)phenyl]}methanol (0.0538 g, 0.152 mmol) and 2-bromoethyl phenylmethyl ether (0.0361 mL, 0.228 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0292 g, 33.8%). EI-MS m/z 488(M+) Rt (2.03 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl {bis[3-(methyloxy)phenyl]}methanol | 0.152 mmol, 0.0538 g | N12CCC(CC1)(CC2)C(O)(C2=CC(=CC=C2)OC)C2=CC(=CC=C2)OC | C22H27NO3
reactant | 2-bromoethyl phenylmethyl ether | 0.228 mmol, 0.0361 mL | C1(=CC=CC=C1)COCCBr | C9H11BrO
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 4-(hydroxy{bis[3-(methyloxy)phenyl]}methyl)-1-{2-[(phenylmethyl)oxy]ethyl}-1-azoniabicyclo[2.2.2]octane bromide | 0.0292 g, 33.8% | [Br-].OC(C12CC[N+](CC1)(CC2)CCOCC2=CC=CC=C2)(C2=CC(=CC=C2)OC)C2=CC(=CC=C2)OC | InChI=1S/C31H38NO4.BrH/c1-34-28-12-6-10-26(22-28)31(33,27-11-7-13-29(23-27)35-2)30-14-17-32(18-15-30,19-16-30)20-21-36-24-25-8-4-3-5-9-25;/h3-13,22-23,33H,14-21,24H2,1-2H3;1H/q+1;/p-1
